US07151196B2
A solution of 2-(2-hydroxyethyl)-5-methoxy-1-indanone (105 mg, 0.51 mmol) in methanol (2.0 mL) at room temperature was treated with ethyl vinyl ketone (EVK, 0.102 mL) and 0.5M sodium methoxide in methanol (0.204 mL, 0.1 mmol). The mixture was stirred in a capped flask and heated in an oil bath at 60° C. for 8 hours. After cooling, the reaction mixture was diluted with EtOAc (25 mL), washed with 0.2N HCl (15 mL), water (15 mL), and brine (15 mL), dried over MgSO4, filtered, and evaporated under vacuum to afford 2-(2-hydroxyethyl)-5-methoxy-2-(3-oxopentyl)-1-indanone as an oil.

reactant | 2-(2-hydroxyethyl)-5-methoxy-1-indanone | 0.51 mmol, 105 mg | OCCC1C(C2=CC=C(C=C2C1)OC)=O | C12H14O3
reactant | ethyl vinyl ketone | 0.102 mL | C(=C)C(=O)CC | C5H8O
reactant | sodium methoxide | 0.5M | C[O-].[Na+]
solvent | methanol | 2.0 mL | CO | CH4O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | methanol | 0.1 mmol, 0.204 mL | CO | CH4O
product | 2-(2-hydroxyethyl)-5-methoxy-2-(3-oxopentyl)-1-indanone | OCCC1(C(C2=CC=C(C=C2C1)OC)=O)CCC(CC)=O | C17H22O4
